US09290451B2
b) 6-Cyclopropylmethoxy-5-pyrrolidin-1-yl-pyridine-2-carboxylic acid [1-(4,5-dihydro-oxazol-2-yl)-1-methyl-ethyl]-amide
The title compound was synthesized in analogy to Example 1, using 6-cyclopropylmethoxy-5-pyrrolidin-1-yl-pyridine-2-carboxylic acid (Example 14 a) and 1-(4,5-dihydro-oxazol-2-yl)-1-methyl-ethylamine as starting materials, MS (EI): m/e=373.2 [M+H]+.

reactant | 6-cyclopropylmethoxy-5-pyrrolidin-1-yl-pyridine-2-carboxylic acid | C1(CC1)COC1=C(C=CC(=N1)C(=O)O)N1CCCC1 | C14H18N2O3
reactant | 1-(4,5-dihydro-oxazol-2-yl)-1-methyl-ethylamine | O1C(=NCC1)C(C)(C)N | C6H12N2O
product | 6-Cyclopropylmethoxy-5-pyrrolidin-1-yl-pyridine-2-carboxylic acid [1-(4,5-dihydro-oxazol-2-yl)-1-methyl-ethyl]-amide | O1C(=NCC1)C(C)(C)NC(=O)C1=NC(=C(C=C1)N1CCCC1)OCC1CC1 | C20H28N4O3
